US09303007B2
HATU (464 mg, 1.22 mmol) was added to a solution of (1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane (280 mg, 1.02 mmol), (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid (214 mg, 1.22 mmol) and DIEA (1.8 mL, 10 mmol) in DMF (3 mL). The reaction mixture was stirred 2 h at room temperature and then diluted with MeOH (5 mL) and water (5 mL). The volatiles were removed under vacuum and the residue was purified with flash chromatography (sample was dry loaded on silica gel and eluted with 0-100 ethyl acetate/hexanes) to afford methyl (S)-1-((1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-3-methyl-1-oxobutan-2-ylcarbamate (500 mg, 0.925 mmol, 91% yield) as yellowish oil. LC-MS retention time 0.850 min; m/z 432.97 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% methanol/90% water/0.1% TFA and Solvent B was 10% water/90% methanol/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 7.09 (s, 1H), 5.09 (dd, J=8.9, 4.6 Hz, 1H), 4.47-4.60 (m, 1H), 3.67 (s, 3H), 3.59-3.62 (m, 1H), 2.39-2.49 (m, 1H), 2.29-2.39 (m, 1H), 2.12 (dq, J=13.6, 6.8 Hz, 1H), 1.95-2.06 (m, 1H), 1.11 (dt, J=8.6, 5.5 Hz, 1H), 0.94-1.02 (m, 3H), 0.91 (d, J=6.7 Hz, 3H), 0.76 (br s, 1H).

reactant | HATU | 1.22 mmol, 464 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane | 1.02 mmol, 280 mg | IC1=CN=C(N1)[C@H]1N[C@@H]2C[C@@H]2C1 | C8H10IN3
reactant | (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid | 1.22 mmol, 214 mg | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | DIEA | 10 mmol, 1.8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | methyl (S)-1-((1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 0.925 mmol, 500 mg, 91% yield | IC1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C([C@H](C(C)C)NC(OC)=O)=O | C15H21IN4O3
